Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
referred for increasing bilirubin to 15 from 3.8 last month)
 
Major Surgical or Invasive Procedure:
___: Diagnostic paracentesis
___: Diagnostic and Therapeutic paracentesis
___: Lymph node biopsy 

 
History of Present Illness:
___ male presenting with a history of EtOH cirrhosis (dx
approximately 9 months ago) and HCC (dx approx. 5 months ago) 
s/p
ablation who is getting his usual care at ___,
seen by Dr. ___ for liver transplant work up now
admitted due to elevated bilirubin noted on labs but no
symptomatic change. 

No OSH records were available at the time of the initial
interview and the timeline outlined below is based on the
patient's information. 

Patient reports that he first noticed abdominal distension
approx. 9 months ago. At that time he was diagnosed with
cirrhosis and started on medications for his ascites. 

Approx. six months ago started noticing a change in skin color 
to
yellow, which has reportedly been more or less stable since. No
itching. Stool normal color. 

Approx. five months ago he was diagnosed with a liver tumor (HCC
per OMR), treated with ablation. Reportedly, a follow up MRI in
___ did not show any persistent / recurrent disease. 

Approx. at the same time he underwent an EGD with ?variceal
banding. 

His abdomen has become more distended recently, requiring
therapeutic paracentesis x2 over the last ___ weeks (most recent
one approx. 1 week ago) with rapid re-accumulation. Endorses
abdominal discomfort ___ distension but no pain. No nausea /
vomiting. No diarrhea. No melena / BRBPR. No fevers / chills. No
SOB. 
 
In the ED:
- Initial vital signs were: 97.3 77 118/63 16 100% RA 

- Exam notable for:  abdominal distension

- Labs were notable for: WBC 9.2, Hgb 11.4, Plt 108, Na 134, BUn
10, crea 0.6, INR 1.8, ALT 74, AST 149, AP 264, Tbili 15.2 (from
3.8 early ___, Alb 2.8, lactate 3.2

- Studies performed include: RUQUS notable for 2 hypoechoic
lesions not seen on prior MR from ___. The right
posterior portal vein demonstrates no color which may be
secondary to slow flow, however a thrombus cannot be excluded.

- Patient was given: Nothing

- Consults: Liver - admit to ET. plan for large volume para. 
also
plan for EGD to assess variceal status. 

- Vitals on transfer:  98.1 76 96/51 16 98% RA 

Upon arrival to the floor, the patient is symptomatically
unchanged. 
 
Review of Systems: 
================== 
(+) per HPI  

 
Past Medical History:
EtOH cirrhosis
HCC, s/p ablation 

 
Social History:
___
Family History:
N/A
 
Physical Exam:
Admission Physical Exam: 
========================
VITALS:   98.3 PO 109 / 69 68 18 100 Ra 
GENERAL: Alert and interactive. comfortably lying in bed
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. sclera 
icteric.
MMM. OP clear.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: distended. +fluid wave. +BS. non-tender. no guarding or
rebound
EXTREMITIES: No clubbing, cyanosis, or edema. WWP
SKIN: icteric throughout, no palmar erythema, no spider
NEUROLOGIC: AAOx3, no asterixis

Discharge Physical Exam:
======================== 
 VS: ___ ___ Temp: 98.4 PO BP: 112/63 R Lying HR: 98 RR: 
18
O2 sat: 98% O2 delivery: RA 
 GENERAL: Alert and interactive. comfortably lying in bed
HEENT: Normocephalic, atraumatic. Pupils equal, round, and
reactive bilaterally, extraocular muscles intact. sclera 
icteric.
MMM. OP clear.  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
BACK: No spinous process tenderness. No CVA tenderness.  
ABDOMEN: mildly distended. +BS. non-tender. no guarding or
rebound
EXTREMITIES: No clubbing, cyanosis, or edema. WWP
SKIN: + palmar erythema, + spider angiomata, jaundice
NEUROLOGIC: AAOx3, no asterixis

 
Pertinent Results:
Admission Labs:
===============

___ 04:35PM BLOOD WBC-9.1 RBC-3.63* Hgb-12.4* Hct-37.5* 
MCV-103* MCH-34.2* MCHC-33.1 RDW-19.6* RDWSD-74.1* Plt ___
___ 04:35PM BLOOD Neuts-69.7 Lymphs-13.2* Monos-12.5 
Eos-1.6 Baso-1.1* Im ___ AbsNeut-6.35* AbsLymp-1.20 
AbsMono-1.14* AbsEos-0.15 AbsBaso-0.10*
___ 04:35PM BLOOD ___
___ 04:35PM BLOOD Plt ___
___ 04:35PM BLOOD UreaN-11 Creat-0.7 Na-134* K-3.9 Cl-95* 
HCO3-21* AnGap-18
___ 04:35PM BLOOD ALT-78* AST-150* AlkPhos-313* 
TotBili-17.4*
___ 04:35PM BLOOD GGT-66*
___ 04:35PM BLOOD Albumin-3.2* Calcium-8.6 Phos-3.0 Mg-2.0 
Iron-131
___ 04:35PM BLOOD calTIBC-282 Ferritn-78 TRF-217
___ 04:35PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-POS*

DISCHARGE LABS:
===============

___ 07:15AM BLOOD WBC-4.9 RBC-2.67* Hgb-9.4* Hct-26.7* 
MCV-100* MCH-35.2* MCHC-35.2 RDW-19.7* RDWSD-71.2* Plt Ct-67*
___ 07:15AM BLOOD Plt Ct-67*
___ 07:15AM BLOOD ___ PTT-67.0* ___
___ 07:15AM BLOOD Glucose-91 UreaN-7 Creat-0.5 Na-133* 
K-4.2 Cl-98 HCO3-22 AnGap-13
___ 07:15AM BLOOD ALT-61* AST-120* LD(LDH)-199 AlkPhos-164* 
TotBili-12.4*
___ 07:15AM BLOOD Albumin-3.2* Calcium-8.0* Phos-2.6* 
Mg-1.7

MICRO:
=====
___ 7:00 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 2:18 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:20 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Preliminary):    NO GROWTH. 
__________________________________________________________
___ 1:54 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 
__________________________________________________________
___ 5:04 pm PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      Reported to and read back by ___ (___) 
___ @ 2:35
      ___. 
      BETA STREPTOCOCCUS GROUP B. 
         Isolated from broth media only, INDICATING VERY LOW 
NUMBERS OF
         ORGANISMS. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 
__________________________________________________________
___ 12:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 12:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

IMAGING/RESULTS:
================
RUQUS ___. Cirrhotic liver with 2 hypoechoic lesions not seen on prior 
MR
from
___. Recommend nonemergent short-term MR ___.
2. The main portal vein demonstrates bidirectional flow and is
likely patent.
The left portal is patent with retrograde flow. The right
anterior portal vein
demonstrates antegrade flow. The right posterior portal vein
demonstrates no
color which may be secondary to slow flow, however a thrombus
cannot be
excluded.
3. Splenomegaly and large volume ascites.
4. Gallbladder wall thickening is likely secondary to third
spacing from
chronic liver disease. 

CT Torso ___:
 
1. Cirrhotic liver and findings of portal hypertension.  No new
or recurrent 
HCC demonstrated. 
2. Large volume ascites is increased.  Patent hepatic
vasculature. 
  
1. No thoracic evidence of metastatic disease. 
2. Extensive ascites in the upper abdomen. Please refer to
separate report of 
CT abdomen and pelvis for discussion of the subdiaphragmatic
findings. 

EGD ___ cords of medium varices with high-risk stigmata were seen in
the lower esophagus. 2 bands were successfully placed.  
 
Chest X ray ___: 
Small contour irregularity projecting over the left costophrenic 
angle with no 
definitive CT correlate.  Otherwise, no evidence of an effusion 
or 
consolidation. 

___ biopsy ___:
 
1. Technically successful CT-guided biopsy of left costophrenic 
lymph node.  
Samples were sent for pathology. 
2. Small left pneumothorax was noted postprocedure.  Chest 
x-rays will be 
obtained at 2 and 4 hours post procedure to ensure 
stability/resolution. 

CXR ___
No evidence of pneumothorax

CXR ___
No evidence of a pneumothorax.
 
Brief Hospital Course:
___ male presenting with a history of EtOH cirrhosis (dx 
approximately 9 months ago) MELD 26, CP class C on admission and 
HCC (dx approx. 5 months ago) s/p ablation who is getting his 
usual care at ___, seen by Dr. ___ ___ 
for liver transplant work up who was admitted due to elevated 
bilirubin noted on labs as well as abdominal distension. 

ACUTE ISSUES:
=============
#Decompensated alcoholic cirrhosis:
#Hyperbilirubinemia:
Decompensated with jaundice and ascites. No asterixis or HE. 
Underlying etiology of cirrhosis is alcohol consumption per 
medical records but patient denied any use for 9 months. 
Increasing abdominal distension/ascites likely secondary to 
decompensation of cirrhosis. While PVT seen on ultrasound, CT 
showed no evidence of portal vein thrombosis. Furosemide and 
spironolactone held for 2 days post CT with contrast due to 
concern for kidney injury as well as concern for infection. No 
evidence of hepatic encephalopathy. Urine culture negative. 
Blood cultures pending on discharge. Patient with fever to 100.8 
overnight ___ so started on ceftriaxone but no clear source of 
infection. No evidence of SBP on diagnostic tap ___ or 
___ but ___ peritoneal culture grew group B strep. Patient 
with 4.2L para ___ and cultures with no growth upon discharge. 
Therefore, we stopped ceftriaxone after 2 days. We continued 
omeprazole 20mg daily throughout admission. We held propranolol 
given possibility of worsening hypotension with diuretics as 
well as diuretic refractory ascites. 

#Esophageal varices:
EGD showed 2 cords of medium varices so two bands were placed. 
Therefore, the patient was placed on Carafate slurry 1g BID x 2 
weeks. Patient also with splenomegaly and thrombocytopenia as 
well as spider angiomata and abdominal distension. EGD ___ 
with 2 cords of medium varices in the lower esophagus with 2 
bands placed.

#Concern for PVT:
The patient had potential portal vein thrombosis on right upper 
quadrant ultrasound. Therefore, obtained CT abdomen with 
contrast to evaluate clot which showed patent portal vein. 
Variceal status was unknown, so patient underwent an upper 
endoscopy which showed 2 cords of medium varices and two bands 
were placed. 

# History of HCC, s/p ablation ___ and ___.
The patient was not a candidate for surgical resection due to 
portal HTN. Lesions on hepatic US not seen on MRI ___. CT 
with no new ___ lesions with CT read "segment 4B ablation bed 
measures 2.7 x 1.6 cm (series 301, image 50)" 

# Epicardial lymph node:
Per transplant clinic, the patient needed a lymph node biopsy 
prior to transplant evaluation. Therefore, biopsy coordinated 
via interventional radiology while inpatient.

#Lung granuloma:
The patient had a CT chest to evaluate for HCC and it showed a 
"3.5 mm calcified granuloma in the left upper lobe." Therefore, 
the patient should have a PPD/quant gold as an outpatient.

CHRONIC ISSUES:
===============

History of GI bleed: Per outside records in ___ and ___.
No evidence of bleeding currently and HDS. We trended daily CBC.

Transitional Issues:
====================
[ ] patient will need weekly diagnostic paracenteses (to be set 
up)
[ ] patient's diuretics were increased immediately prior to 
admission. He was discharged with a new diuretic regimen of PO 
Lasix 60 and spironolactone 100 daily (previously on Lasix 40, 
spironolactone 50). Continue to monitor volume exam and adjust 
diuretic regimen as tolerated.
[ ] f/u lymph node biopsy pathology
[ ] repeat EGD in ___ weeks (end of ___ for ongoing 
variceal eradication
[ ] continue carafate slurry 1g BID for two weeks to end 
___
[ ] f/u left upper lower granuloma and consider PPD or 
quantiferon gold 
[ ] Needs weekly labs, including CBC, CHEM10, LFTs, ___. 
Results should be faxed to the ___ at 
___, (tel: ___ 

#CODE: Full (confirmed ___
#CONTACT: friend: ___ (___)

___ at discharge: 4.8
#Weight at discharge: 91.5kg
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 40 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Propranolol 20 mg PO BID 
4. Spironolactone 50 mg PO DAILY 

 
Discharge Medications:
1.  Sucralfate 1 gm PO BID Duration: 2 Weeks 
RX *sucralfate [Carafate] 1 gram/10 mL 1 suspension(s) by mouth 
twice daily Refills:*0 
2.  Furosemide 60 mg PO DAILY 
RX *furosemide 20 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
3.  Spironolactone 100 mg PO DAILY 
RX *spironolactone 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Omeprazole 20 mg PO DAILY  
5.Outpatient Lab Work
K70.30

Needs weekly labs, including CBC, CHEM10, LFTs, ___. Results 
should be faxed to the ___ at ___, (tel: 
___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Decompensated alcoholic cirrhosis
Hyperbilirubinemia

Secondary diagnsoses:
Hepatocellular carcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED?
You were admitted because you had an elevated bilirubin, a 
marker of liver disease, as well as abdominal distension. 

WHAT WAS DONE WHILE I WAS HERE?
-We drained fluid from your abdomen 
-We did a CT scan of your chest and abdomen 
-We looked in your throat and saw dilated veins, or varices, in 
your esophagus, so we put bands around these veins to prevent 
them from getting bigger/bleeding
-We took a biopsy of a lymph node in your body 

WHAT SHOULD I DO NOW?
-You should take your medications as instructed
-You should go to your doctor's appointments as below

We wish you the best!
-Your ___ Care Team
 
Followup Instructions:
___